US03989708
Upon heating a solution of 16.0 g of 2-methylbenzylideneacetone and 13.0 of amidinoacetic acid ethyl ester in 150 ml of ethanol for 2 hours, 2-amino-6-methyl-4-(2-methylphenyl)-1,4-dihydropyridine-3-carboxylic acid ethyl ester of melting point 159°C (isopropanol) is obtained. Yield: 61 percent of theory.

reactant | 2-methylbenzylideneacetone | 16.0 g | CC1=C(C=CC(C)=O)C=CC=C1 | C11H12O
reactant | amidinoacetic acid ethyl ester | C(C)OC(CC(N)=N)=O | C5H10N2O2
reactant | isopropanol | C(C)(C)O | C3H8O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2-amino-6-methyl-4-(2-methylphenyl)-1,4-dihydropyridine-3-carboxylic acid ethyl ester | Yield: 61 percent | C(C)OC(=O)C1=C(NC(=CC1C1=C(C=CC=C1)C)C)N | C16H20N2O2
